US09359362B2
N-{(7S)-6-Cyano-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}cyclopropanecarboxamide
Under an atmosphere of argon protective gas, (7S)-2-amino-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride (16 mg, 30 μmol) was dissolved in abs. pyridine (1 ml). At room temperature, cyclopropanecarbonyl chloride was added in two portions (in each case 3.7 mg, 36 μmol, 1.2 eq.). Once HPLC showed substantial conversion (12 h), the reaction mixture was concentrated under reduced pressure and purified by preparative HPLC (Macherey & Nagel Gravity C18 column, 21×300 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (11.2 mg, 66% of theory).

reactant | (7S)-2-amino-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile hydrochloride | 30 μmol, 16 mg | Cl.NC1=NN2C(N(C(=C([C@H]2C2=C(C=C(C=C2)C#N)S(=O)(=O)C)C#N)C)C2=CC(=CC=C2)C(F)(F)F)=N1
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-{(7S)-6-Cyano-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}cyclopropanecarboxamide | C(#N)C1=C(N(C=2N([C@@H]1C1=C(C=C(C=C1)C#N)S(=O)(=O)C)N=C(N2)NC(=O)C2CC2)C2=CC(=CC=C2)C(F)(F)F)C | C26H20F3N7O3S
